US06545056B1
Synthesis of α-(3-Ethoxy4-methoxyphenyl)-N-cyclohexylnitrone
A solution of 3-ethoxy-4-methoxybenzaldehyde (1 eq.) in benzene was refluxed with N-cyclohexylhydroxylamine (1.3 eq.) in the presence of p-toluenesulfonic acid (0.1 eq.) for 72 h. The title compound was isolated in 57% yield as a solid, m.p. 113.5° C.

reactant | 3-ethoxy-4-methoxybenzaldehyde | 1 eq. | C(C)OC=1C=C(C=O)C=CC1OC | C10H12O3
reactant | N-cyclohexylhydroxylamine | 1.3 eq. | C1(CCCCC1)NO | C6H13NO
reactant | p-toluenesulfonic acid | 0.1 eq. | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | α-(3-Ethoxy4-methoxyphenyl)-N-cyclohexylnitrone | 57% yield | C(C)OC=1C=C(C=CC1OC)C=[N+]([O-])C1CCCCC1 | C16H23NO3
